US05053509
A solution of methylamine (11.3 g) at approximately 0° C. in ethanol (50 cc) is added in the course of 10 minutes at between 0° and 5° C. to a stirred suspension, maintained at a temperature in the region of 0° C., of ethyl 2-(2-chloro-6,7-difluoro-3-quinolinecarbonyl)-3-(dimethylamino)acrylate (22.3 g) in ethanol (480 cc), the mixture is stirred for 1 hour at between 0° and 5° C., the temperature is allowed to rise to approximately 25° C. and the mixture is stirred for a further 16 hours at the same temperature. The insoluble matter is drained and washed with ethanol (3×100 cc) and ethyl ether (2×100 cc). After 1 recrystallization in dimethylformamide (250 cc), 3-ethoxycarbonyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (16 g) is obtained in the form of a yellow solid, m.p. 323° -324° C.

reactant | methylamine | 11.3 g | CN | CH5N
reactant | ethyl 2-(2-chloro-6,7-difluoro-3-quinolinecarbonyl)-3-(dimethylamino)acrylate | 22.3 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)F | C17H15ClF2N2O3
solvent | ethanol | 50 cc | C(C)O | C2H6O
solvent | ethanol | 480 cc | C(C)O | C2H6O
product | 3-ethoxycarbonyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 16 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)F)=O | C16H12F2N2O3
